Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
irinotecan / oxaliplatin
 
Attending: ___.
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with pancreatic adenocarcinoma + pulmonary mets, currently 
being treated with gemcitabine (most recent chemo ___, history 
of pneumonitis due to irinotecan and oxaliplatin, who presents 
with cough, dyspnea and fevers starting ___.

In terms of a brief oncologic history extrapolated from his 
Atrius Onc notes, in ___ he had a 20lb weight loss, normal 
colonoscopy and recent normal imaging of liver and kidneys in 
setting of right sided abdominal pain. Subsequently he had 
dyspnea on exertion and cough, at which time CT chst showed 
diffuse pulmonary nodules with areas of confluent tumor, as well 
as a 3 cm pancreatic mass. He was hospitalized at ___ later in 
___ with worsening dyspnea, at which time lung biopsy 
showed metastatic adenocarcinoma with likely pancreatic primary. 
He was started on Folfirinox on ___. In ___ was 
admitted to the FICU with SOB/pneumonitis which was attributed 
to the chemotherapy and required prolonged steroids and home 
oxygen. 

He had a ___ year chemotherapy holiday, was off of steroids for >6 
months, and on ___ was started on dose-reduced gemcitabine. 
Last chemotherapy was ___ (cycle 2 Day 8). He denies side 
effects so far. 

Several days prior to admission he noticed cough that was 
intermittently productive of yellow or brownish sputum. The 
morning of ___ he awoke from sleep feeling acutely dyspneic and 
used a home pulse oximeter which revealed an O2 saturation in 
the high ___ to ___. He felt progressively short of breath and 
developed a temperature of approximately 101, so after many 
hours presented to the ED. He was also having substernal pain 
when he has coughing fits but not otherwise.  No chills, 
nightsweats, rhinorrhea, sore throat, sick contacts or recent 
travel.  

Did receive Flu shot on ___. Pneumovax given ___, PCV13 
given ___. Has not received second pneumovax. 

In the ED, initial vitals: 101.2 | 116 | 128/62 | 18 | 92% 4L NC
 
Exam notable for: "Initially uncomfortable with elevated 
respiratory rate on 4 L by nasal cannula with oxygen saturation 
around 80%; was placed on a nonrebreather mask with improvement 
to the ___. Regular tachycardia without murmurs, rubs, or 
gallops. Distant heart sounds. No jugular venous distention. 
Abdomen soft and nontender. ___ with trc symmetric edema"

POCUS: "Cardiac-attempted to obtain ultrasound views to evaluate 
for LV function, RV morphology, and diffusion; 4 views were 
attempted in both the supine and the left lateral decubitus 
position without success."

Labs notable for:  
8.3 > 10.8/31.5 < 211
proBNP 355
135 | 99 | 14           8.3
-------------< 177      1.5
4.2 | 23 | 0.9          1.8

Trop T <0.01

7.44 | 38 | 52    
 Lactate 1.6

Imaging:  
___ CXR IMPRESSION: Widespread, multifocal opacities. 
Similar widespread opacities have also been demonstrated on 
prior CT scans and radiographs; differential considerations 
include multifocal pneumonia, drug induced pneumonitis, atypical 
infection, edema, or hemorrhage.

___ ECHOCARDIOGRAM IMPRESSION: Very suboptimal image 
quality. Normal left ventricular cavity size and global systolic 
function. No definite valvular pathology or pathologic flow 
identified.  

Patient received:  
___ 02:20 IV Azithromycin (500 mg ordered) ___ 
Started  
___ 02:20 IV CefePIME  ___ Started  
___ 02:20 IV Acetaminophen IV 1000 mg ___  
___ 02:26 IV CefePIME 2 g ___ Stopped ___ 

Vitals on transfer:  97, 130/63, 20, 97% NRB

Upon arrival to ___, he reports improvement in his breathing 
(on nonrebreather) and resolution of his cough. He quickly 
desaturated to the ___ on Nasal Cannula. 
 
Past Medical History:
per prior discharge summary and Atrius records: 
#Oncologic
 Pancreatic adenocarcinoma 
 Lung metastases bilateral 
#Pulmonary
 Interstitial lung disease 
 Pulmonary fibrosis 
 Pneumonitis 
 Centrilobular emphysema 
#Cardiac
 CORONARY ARTERY DISEASE, UNSPEC VESSEL TYPE 
 Hypercholesterolemia 
#Endocrine
 Type 2 diabetes mellitus without complication, on insulin 
#GI
 Gastroesophageal reflux disease without esophagitis 
#Derm
 Left Ear Zoster
 Post herpetic neuralgia 
#Other
 Anxiety states 
 Colonic adenoma 
 Psoriasis 
 Renal cyst, right 
 Elevated PSA 
 
Social History:
___
Family History:
Mother died age ___, does not know any further details 
Father died age ___, does not know any further details 
1 brother
2 sisters -> one died of cancer, does not know any further 
details 
2 sons 
 
Physical ___:
ADMISSION PHYSICAL EXAM:
========================
VITALS: 97.8 | 89 | 116/75 | 27 | 96%
GENERAL: Nontoxic, NAD. Diaphoretic. 
HEENT: MMM, oropharynx without lesions.
NECK: JVP not elevated.
LUNGS: Lower ___ of lungs and lateral fieldswith diffuse 
crackles and intermittent wheeze worse in left lower lobe. 
Lowest ___ with poor air movement. Apexes with good air movement 
and minimal additional sounds
CV: Regular rate and rhythm, normal S1 S2, no murmurs heard. 
ABD: soft, non-tender, non-distended, no guarding. 
EXT: Warm, well perfused, 2+ pulses. There is no edema
SKIN: Without evidence of psoriasis on elbows, knees, fingers. 
Onychomycosis of toenails and some pitting in fingernails.
NEURO: Left face with mild droop and reduced CN strength 
compared to right. Pupils equal and reactive, CN sensation 
grossly symmetric. No dysarthria.
ACCESS: Right-sided port, peripherals.

DISCHARGE PHYSICAL EXAM:
========================

Patient was examined on day of discharge. He was able to walk > 
300 feet. At rest, he was saturating 95% on RA; while ambulating 
her dropped to < 83%. He required ___ liters of O2 to maintain 
his saturations. Otherwise, lungs CTAB.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 01:25AM   WBC-8.3 RBC-3.59* HGB-10.8* HCT-31.5* MCV-88 
MCH-30.1 MCHC-34.3 RDW-14.9 RDWSD-44.3
___ 01:25AM   NEUTS-77.4* LYMPHS-9.7* MONOS-10.5 EOS-1.3 
BASOS-0.4 IM ___ AbsNeut-6.44* AbsLymp-0.81* AbsMono-0.87* 
AbsEos-0.11 AbsBaso-0.03
___ 01:25AM   CALCIUM-8.3* PHOSPHATE-1.8* MAGNESIUM-1.5*
___ 01:25AM   proBNP-355*
___ 01:25AM   cTropnT-<0.01
___ 01:25AM   GLUCOSE-177* UREA N-14 CREAT-0.9 SODIUM-135 
POTASSIUM-4.2 CHLORIDE-99 TOTAL CO2-23 ANION GAP-13
___ 01:43AM   O2 SAT-82
___ 01:43AM   LACTATE-1.6
___ 01:43AM   ___ TEMP-38.3 PO2-52* PCO2-38 PH-7.44 
TOTAL CO2-27 BASE XS-1
___ 05:18AM   ___ PTT-29.6 ___

MICRO:
======
___ FluAPCR-NEGATIVE FluBPCR-NEGATIVE
___ MRSA SCREEN - negative
___ BLOOD CULTURES - ####
___ RAPID RESPIRATORY VIRAL SCREEN AND CULTURE - negative
___ SPUTUM CULTURE - gram stain without microorganisms, 
legionella negative, PJP immunofluorescence negative
___ URINE LEGIONELLA ANTIGEN - negative

IMAGING:
========
CXR (___)
Widespread, multifocal opacities.  Similar widespread opacities 
have also been demonstrated on prior CT scans and radiographs; 
differential considerations include multifocal pneumonia, drug 
induced pneumonitis, atypical infection, edema, or hemorrhage. 

CTA CHEST (___)
1.  No pulmonary embolus demonstrated.  Interval worsening of 
numerous 
pulmonary metastases compared to most recent prior. 
3.  Background ground-glass opacities with septal thickening 
which could be due to drug induced pneumonitis or atypical 
infection is improved. 
4.  Stable mediastinal and hilar lymphadenopathy. 

DISCHARGE LABS:
===============
___ 05:25AM BLOOD WBC-9.7 RBC-3.60* Hgb-11.0* Hct-33.4* 
MCV-93 MCH-30.6 MCHC-32.9 RDW-15.6* RDWSD-51.8* Plt ___
___ 05:25AM BLOOD Glucose-140* UreaN-19 Creat-0.8 Na-139 
K-4.4 Cl-97 HCO3-32 AnGap-10
___ 05:25AM BLOOD Calcium-9.1 Phos-3.7 Mg-2.___ y/o M with pancreatic adenocarcinoma + pulmonary mets, 
currently being treated with gemcitabine (most recent chemo 
___, history of pneumonitis due to irinotecan and oxaliplatin, 
who presents with cough, dyspnea and fevers starting ___ 
concerning for infection vs. disease progression.

# HYPOXIC RESPIRATORY FAILURE in setting of
# HX CHEMO-INDUCED PNEUMONITIS
# EMPHYSEMA:
# PULMONARY METASTISIS  
The differential was initially broad in this cancer patient with 
history of pneumonitis and emphysema. No bacterial or viral 
infection was found thus broad spectrum antibiotics were 
discontinued. No PE was found on CTA. He recently received 
gemcitabine and had a CT scan in ___ of this year at year 
that had increased ground glass opacities during this admission 
making chemo-induced pneumonitis the most likely inciting 
factor. He was treated with initially ___ oxygen and and 
transitioned to NC. He was also placed on 60 mg PO prednisone. 
His oxygenation steadily improved, but he still required oxygen 
on ambulation. He is discharging on prednisone 60 mg daily, with 
plans for an outpatient taper, as well as TMP-SMX DS three times 
a week for prophylaxis. He is also going home on home oxygen 
while ambulating.

# STAGE IV PANCREATIC CANCER w/ BX-PROVEN LUNG METS: Folfirinox 
discontinued d/t presumed pneumonitis. In ___, a routine CT 
scan showed stable pancreatic mass but new/enlarged pulmonary 
nodules which were asymptomatic. In ___, evidence 
ofworsening disease in his pancreatic mass and growth in his 
lung nodes as well as mediastinal LAD. Per oncology note, he was 
seen by ___ in ___ but was not offered clinical trials due 
to pneumonitis and psoriasis. Thus Gemcitibine started ___, 
last dose C2D8 (reduced dose) on ___, albeit with risk of 
pneumonitis. Symptoms initially improved. Atrius oncology 
continued seeing the patient during this admission and told the 
patient they will try different chemotherapy agents after he 
improves from current illness.

# TYPE 2 DM: On Lantus and HISS at home. FSBS were elevated in 
house in the setting of high-dose steroids. Insulin regimen was 
adjusted for better glycemic control. He is discharging on 30 
units of glargine with his pre-existing sliding scale.

# HX ZOSTER
# POST-HERPETIC NEURALGIA: 
Continued home medications.

# CAD: continued home aspirin. Held home Lipitor as patient has 
not been taking this. 

# ANXIETY: Had been on Ativan but reports not taking this 
anymore.

# PSORIASIS: Improved on chemotherapy; stopped taking 
creams/ointments.

TRANSITIONAL ISSUES:
====================
- Patient has not been taking his inhalers and some of his other 
medications as prescribed (such as aspirin). Please continue 
medication teaching with the patient. 
- Patient remains ok to intubate. His prognosis, if intubated 
would likely be poor. Please continue to monitor. 

> 35 minutes spent on discharge activities.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete
****I believe that it is accurate to what he takes, but it 
should also include albuterol inhaler PRN, Lipitor. Not taking 
ASA or albuterol regularly. Atrius records have pregabalin at 
wrong dosing compared to his actual note and fill record***
The Preadmission Medication list may be inaccurate and requires 
futher investigation
1. Aspirin 81 mg PO INTERMITTENT 
2. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
3. Acyclovir 800 mg PO Q12H 
4. Glargine 20 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
5. fluticasone-vilanterol 100-25 mcg/dose inhalation DAILY 
6. Albuterol Inhaler 2 PUFF IH Q4H:PRN dyspnea 
7. Gabapentin 600 mg PO QHS 
 
Discharge Medications:
1.  Acyclovir 400 mg PO Q8H 
RX *acyclovir 400 mg 1 tablet(s) by mouth Three times daily Disp 
#*90 Tablet Refills:*0 
2.  PredniSONE 60 mg PO DAILY 
RX *prednisone 20 mg 3 tablet(s) by mouth Daily Disp #*90 Tablet 
Refills:*0 
3.  Sulfameth/Trimethoprim DS 1 TAB PO 3X/WEEK (___) 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth Three times a week -- ___ - ___ - F Disp #*30 Tablet 
Refills:*0 
4.  Glargine 30 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin 
5.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
6.  Albuterol Inhaler 2 PUFF IH Q4H:PRN dyspnea  
7.  Aspirin 81 mg PO INTERMITTENT  
8.  fluticasone-vilanterol 100-25 mcg/dose inhalation DAILY  
9.  Gabapentin 600 mg PO QHS  
10.Oxygen\\
- Equipment: O2 concentrator and portable tank @ 4L flow 
continuously
- Diagnosis: chemotherapy-induced pneumonitis
- Length of Need: 99 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Chemotherapy-induced pneumonitis
Metastatic pancreatic cancer to lung
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with chemotherapy-induced pneumonitis (lung 
inflammation) because of your metastatic pancreatic cancer. You 
were treated with steroids and your symptoms got much better. 
However, you were still requiring oxygen and you will be sent 
home with home O2, as well as steroids, and antibiotics to 
prevent you from getting an infection.
 
Followup Instructions:
___